US06300333B1
4-(1-tert-butoxycarbonylpiperidin-4-yloxy)-5-chloro-6-ethylpyrimidine
0.4 g (10 mmol) of sodium hydride (80% dispersion in oil) was added to a solution of 2.0 g (10 mmol) of 1-(tert-butoxycarbonylpiperidin-4-ol and 1.8 g (10 mmol) of 4,5-dichloro-6-ethylpyrimidine in 25 ml of tetrahydrofuran, and the mixture was stirred for 2 hours at room temperature for 1 hour at reflux. After cooling, the mixture was concentrated, the residue was taken up in water/toluene, and the organic phase was dried and concentrated. For purification, the product was chromatographed on silica gel (petroleum ether/ethyl acetate 7:3). This gave 2.5 g (73.5% of theory) of a yellow oil.

reactant | sodium hydride | 10 mmol, 0.4 g | [H-].[Na+]
reactant | tert-butoxycarbonylpiperidin-4-ol | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 4,5-dichloro-6-ethylpyrimidine | 10 mmol, 1.8 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-(1-tert-butoxycarbonylpiperidin-4-yloxy)-5-chloro-6-ethylpyrimidine | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1Cl)CC | C16H24ClN3O3
